US07632829B2
4-(5-Methyl-4H-[1,2,4]triazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
4-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester (1.19 g, 5 mmol) was mixed with ethylacetimidate hydrochloride (0.91 g, 7 mmol) in DMF (5 ml) and Et3N (2 ml, 15 mmol) was added. The reaction was stirred for 1 h after which time the DMF was evaporated, the residue redissolved in AcOH and 0.5 g of ammonium acetate added and the reaction heated to 100° C. for a further 3 h. The reaction was then concentrated, redissolved in CH2Cl2, washed with NaHCO3, dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (CH2Cl2:MeOH 1:0-9:1) to afford the title product (0.14 g, 10%) as a colourless gum. MS: 267.4 (MH+)

reactant | 4-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester | 5 mmol, 1.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NN | C11H21N3O3
reactant | ethylacetimidate hydrochloride | 7 mmol, 0.91 g | Cl.C(C)OC(C)=N
reactant | Et3N | 15 mmol, 2 ml | CCN(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(5-Methyl-4H-[1,2,4]triazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.14 g, 10% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NN=C(N1)C | C13H22N4O2
